US08030504B2
Dimethyl 2-(3-(trifluoromethyl)phenylamino)maleate
3-(Trifluoromethyl)aniline (10.0 g, 62.0 mmol) and dimethyl acetylenedicarboxylate (8.4 mL, 68.4 mmol) were dissolved in methanol (100 mL) and the mixture was refluxed for 2 hours. After cooling, the mixture was concentrated under reduced pressure and the residue was chromatographed on silica gel eluting with 0-30% ethyl acetate in hexane to afford the title compound. 1H NMR (300 MHz, CD3OD) δ ppm 3.71 (s, 3H), 3.73 (s, 3H), 5.49 (s, 1H), 7.16 (m, 2H), 7.36 (d, J=7.80 Hz, 1H), 7.48 (t, J=7.80 Hz, 1H). MS (ESI) m/z 303.97 (M+H)+.

reactant | 3-(Trifluoromethyl)aniline | 62.0 mmol, 10.0 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | dimethyl acetylenedicarboxylate | 68.4 mmol, 8.4 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | 100 mL | CO | CH4O
product | Dimethyl 2-(3-(trifluoromethyl)phenylamino)maleate | FC(C=1C=C(C=CC1)N/C(/C(=O)OC)=C/C(=O)OC)(F)F | C13H12F3NO4
